US07723347B2
N-(2-Fluoro-4-nitrophenyl)-3-(trifluoromethyl)-1H-pyrrolo[2,3-b]pyridine-4-amine
3 ml of trifluoroacetic acid are added to a solution of 182 mg (0.387 mmol) of N-(2-fluoro-4-nitrophenyl)-3-(trifluoromethyl)-1-{[2-(trimethylsilyl)ethoxy]methyl}-1H-pyrrolo[2,3-b]pyridine-4-amine in 3.00 ml of dichloromethane, and the mixture is stirred at RT for 30 min. The solvents are removed under reduced pressure. The residue is dissolved in ethyl acetate and washed successively with saturated solutions of sodium bicarbonate and sodium chloride, the organic phase is dried with magnesium sulfate and the solution is concentrated. The product is used without further purification.

reactant | trifluoroacetic acid | 3 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | N-(2-fluoro-4-nitrophenyl)-3-(trifluoromethyl)-1-{[2-(trimethylsilyl)ethoxy]methyl}-1H-pyrrolo[2,3-b]pyridine-4-amine | 0.387 mmol, 182 mg | FC1=C(C=CC(=C1)[N+](=O)[O-])NC=1C2=C(N=CC1)N(C=C2C(F)(F)F)COCC[Si](C)(C)C | C20H22F4N4O3Si
solvent | dichloromethane | 3.00 ml | ClCCl | CH2Cl2
product | N-(2-Fluoro-4-nitrophenyl)-3-(trifluoromethyl)-1H-pyrrolo[2,3-b]pyridine-4-amine | FC1=C(C=CC(=C1)[N+](=O)[O-])NC=1C2=C(N=CC1)NC=C2C(F)(F)F | C14H8F4N4O2
